US08198453B2
At 0° C., 1.0M TiCl4 in CH2Cl2 solution (8.55 mL, 0.7 eq) was added to CH2Cl2 (100 mL) followed by the addition of 1.0M TiCl(Oi—Pr)3 in hexanes solution (4.28 mL, 0.35 eq) and stirred 5 min DIPEA (2.87 mL, 1.35 eq) was added and stirred 15 min. A solution of (S)-tert-butyl 2,2-dimethyl-4-(3-((R)-4-methyl-2-oxooxazolidin-3-yl)-3-oxopropyl)oxazolidine-3-carboxylate (5.28 g, 12.22 mmol) in CH2Cl2 (50 mL) was added. The reaction mixture was stirred 1 hr at 0° C. To the solution, t-butylacrylate (2.22 mL, 1.25 eq) was added and the mixture was left stirred over 48 hr with concomitant warming to rt. The mixture was concentrated, partitioned between EtOAc (300 mL) and 1% HCl solution (100 mL). The organic layer was washed with sat. NaHCO3 solution (60 mL), brine (60 mL), dried over Na2SO4. After filtration and concentration, the residue was purified by ISCO (120 g column, 0˜35% EtOAc in Hexanes gradient) to afford 4.12 g (60%) (S)-tert-butyl 4-((R)-5-tert-butoxy-2-((R)-4-methyl-2-oxooxazolidine-3-carbonyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate as a yellowish solid. MS ESI+ve m/z 583 (M+Na).

reactant | DIPEA | 2.87 mL, 1.35 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-tert-butyl 2,2-dimethyl-4-(3-((R)-4-methyl-2-oxooxazolidin-3-yl)-3-oxopropyl)oxazolidine-3-carboxylate | 12.22 mmol, 5.28 g | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)CCC(=O)N1C(OC[C@H]1C)=O)C | C17H28N2O6
reactant | t-butylacrylate | 2.22 mL, 1.25 eq | C(C)(C)(C)OC(C=C)=O | C7H12O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 1.0M | Cl[Ti](Cl)(Cl)Cl
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 8.55 mL, 0.7 eq | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 4-((R)-5-tert-butoxy-2-((R)-4-methyl-2-oxooxazolidine-3-carbonyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate | 4.12 g, 60% | C(C)(C)(C)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(=O)N1C(OC[C@H]1C)=O)=O | C24H40N2O8
